US04469865
To 5 ml of dry acetonitrile were added 1.4 g of 1-ethoxycarbonylimidazole and 2.55 g of methyl 4-bromomethylcinnamate, the mixture was stirred for 5 hours at room temperature. The precipitated crystals were collected by filtration and recrystallized from acetonitrile/diethyl ether to yield 2.9 g of 1-ethoxycarbonyl-3-[4-(2-methoxycarbonylvinyl)benzyl]imidazolium bromide.

reactant | 1-ethoxycarbonylimidazole | 1.4 g | C(C)OC(=O)N1C=NC=C1 | C6H8N2O2
reactant | methyl 4-bromomethylcinnamate | 2.55 g | BrCC1=CC=C(C=CC(=O)OC)C=C1 | C11H11BrO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-ethoxycarbonyl-3-[4-(2-methoxycarbonylvinyl)benzyl]imidazolium bromide | 2.9 g | [Br-].C(C)OC(=O)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=CC(=O)OC | InChI=1S/C17H19N2O4.BrH/c1-3-23-17(21)19-11-10-18(13-19)12-15-6-4-14(5-7-15)8-9-16(20)22-2;/h4-11,13H,3,12H2,1-2H3;1H/q+1;/p-1
